US05750531
Synthesis of 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1,2,3,4- tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.7 ml, 7.4 mmol) was added to a mixture solution of 5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(1.0 g, 3.6 mmol) and dimethylformamide(5 ml), 0.67 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 7.4 mmol, 0.7 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 3.6 mmol, 1.0 g | CC=1C(=NC(=NC1C)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(1,2,3,4- tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.67 g, Yield: 48% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1CC2=CC=CC=C2CC1 | InChI=1S/C21H21FN4.ClH/c1-14-15(2)23-21(24-19-9-7-18(22)8-10-19)25-20(14)26-12-11-16-5-3-4-6-17(16)13-26;/h3-10H,11-13H2,1-2H3,(H,23,24,25);1H
